US05688791
In 50 ml of N,N-dimethylformamide was dissolved 5.6 g (0.013 mole) of ethyl 2-(2,4,5-trifluoro-3-difluoromethoxybenzoyl)-3-(2-pyridylmethylamino)acrylate, and 2.2 g (0.026 mole) of sodium hydrogen carbonate was added thereto. The mixture was stirred at 120° C. for 30 minutes. Then, the reaction mixture was poured into 200 ml of water, and crystals precipitated were collected by filtration. The collected crystals were washed with water and ethanol and dried to obtain 2.6 g of ethyl 6,7-difluoro-8-difluoromethoxy-1-(2-pyridylmethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate as yellow crystals.

reactant | ethyl 2-(2,4,5-trifluoro-3-difluoromethoxybenzoyl)-3-(2-pyridylmethylamino)acrylate | 0.013 mole, 5.6 g | FC1=C(C(=O)C(C(=O)OCC)=CNCC2=NC=CC=C2)C=C(C(=C1OC(F)F)F)F | C19H15F5N2O4
reactant | sodium hydrogen carbonate | 0.026 mole, 2.2 g | C(O)([O-])=O.[Na+]
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 6,7-difluoro-8-difluoromethoxy-1-(2-pyridylmethyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.6 g | FC=1C=C2C(C(=CN(C2=C(C1F)OC(F)F)CC1=NC=CC=C1)C(=O)OCC)=O | C19H14F4N2O4
